US04978665
4-bromo-5-(3-n-propoxy-4-methoxy-N-methylbenzylamino)-3(2H)pyridazinone (Compound No. 6)
A mixture comprising 300 mg of 4,5-dibromo-3(2H)pyridazinone, 740 mg of 3-n-propoxy-4-methoxy-N-methylbenzylamine and 10 ml of ethanol, was refluxed under stirring for 7 hours. Then, ethanol was distilled off under reduced pressure, dilute hydrochloric acid was added to the residue thereby obtained, and the mixture was extracted with ethyl acetate. The extract was washed twice with water and dried over sodium sulfate. Then, the solvent was distilled off to obtain a yellow solid substance. The product was crystallized from ethyl acetate, to obtain 310 mg of the above identified compound having a melting point of from 149° to 150° C. as light yellow crystals.

reactant | 4,5-dibromo-3(2H)pyridazinone | 300 mg | BrC=1C(NN=CC1Br)=O | C4H2Br2N2O
reactant | 3-n-propoxy-4-methoxy-N-methylbenzylamine | 740 mg | C(CC)OC=1C=C(CNC)C=CC1OC | C12H19NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-bromo-5-(3-n-propoxy-4-methoxy-N-methylbenzylamino)-3(2H)pyridazinone | BrC=1C(NN=CC1N(C)CC1=CC(=C(C=C1)OC)OCCC)=O | C16H20BrN3O3
